US06797344B2
In a 500 ml 2-necked bottle equipped with a condenser tube, butanone (200 ml), and then 2,4-dinitrofluorobenzene (18.60 g, 0.100 mol), hydroquinone (11.32 g, 0.100 mol), and potassium carbonate (15.26 g, 0.110 mol) were introduced. The mixture were agitated at room temperature for 2 hours. Then, potassium carbonate (15.26 g, 0.110 mol), octane bromide (27.41 g, 0.110 mol), and butanone (20 ml) were added to the bottle. The mixture were stirred at room temperature for 6 hours. Thereafter, distilled water (300 ml) was added to the bottle, and the mixture was extracted by ethyl acetate (300 ml×3). The collected organic layers were dried by anhydrous sodium sulfate, filtered, and concentrated, and recrystallized by ethanol to obtain 1-[4-(2,4-dinitrophenoxy)phenoxy]octane (31.08 g, 0.080 mol). Yield: 80%. Spectrum: IR (KBr) 3096, 2938, 2854, 1604, 1526, 1504, 1476, 1348, 1273, 1240, 1188, 1116, 1069, 1001 cm−1. 1HNMR (DMSO-d6, 300 MHz). δ8.88 (d, J=2.8 Hz, 1H), 8.43 (dd, J=2.8, J=9.3 Hz, 1H), 7.21 (d, J=8.6 Hz, 2H), 7.10˜7.05 (m, 3H), 3.98 (t, J=6.4 Hz, 2H), 1.73 (quintet, J=6.7 Hz, 2H), 1.4˜1.2 (m, 10H), 0.87 (t, J=6.2, 3H) 13C NMR (DMSO-d6, 75 MHz). δ57.0, 156.1, 146.6, 141.0, 139.0, 129.7, 122.1, 122.0, 118.3, 116.3, 68.1, 31.5, 29.0, 28.9, 28.8, 25.7, 22.3, 14.1.

reactant | 2,4-dinitrofluorobenzene | 0.100 mol, 18.60 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | hydroquinone | 0.100 mol, 11.32 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | potassium carbonate | 0.110 mol, 15.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 0.110 mol, 15.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | octane bromide | 0.110 mol, 27.41 g | [Br-].CCCCCCCC
solvent | butanone | 20 ml | CC(CC)=O | C4H8O
solvent | butanone | 200 ml | CC(CC)=O | C4H8O
product | 1-[4-(2,4-dinitrophenoxy)phenoxy]octane | 0.080 mol, 31.08 g, Yield: 80% | [N+](=O)([O-])C1=C(OC2=CC=C(OCCCCCCCC)C=C2)C=CC(=C1)[N+](=O)[O-] | C20H24N2O6
